US04567264
1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine acetate (1.0 g) is dissolved in 50 ml 50% aqueous sulfuric acid, and the solution evaporated to dryness. The product is suspended in ethanol and filtered, air dried and recrystallized from methanol/acetone to yield 1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine.2HSO4.

reactant | 1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine acetate | 1.0 g | C(C)(=O)O.COC1=C(OCC(CN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O)C=CC=C1
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine | COC1=C(OCC(CN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O)C=CC=C1 | C24H33N3O4
